US05556909
A mixture of 3-bromopyridine N-oxide (26.09 g; 150 mmol), trimethylsilyl cyanide (50 g; 504 mmol), and triethylamine (30.36 g, 300 mmol) in dry acetonitrile under nitrogen was refluxed for 20 hours. The mixture was concentrated in vacuo, the residue partitioned between methylene chloride (600 ml) 3 N sodium carbonate solution (250 ml), and the aqueous layer was extracted with 200 ml of methylene chloride. The combined organic layer was dried over sodium sulfate, concentrated in vacuo, and the residue was purified by flash chromatography (25% ethyl acetate in hexane) to afford 17.65 g (64.5%) of 3-bromo-2-cyano-pyridine as a solid, m.p. 93°-95° C.

reactant | 3-bromopyridine N-oxide | 150 mmol, 26.09 g | BrC=1C=[N+](C=CC1)[O-] | C5H4BrNO
reactant | trimethylsilyl cyanide | 504 mmol, 50 g | C[Si](C)(C)C#N | C4H9NSi
reactant | triethylamine | 300 mmol, 30.36 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-bromo-2-cyano-pyridine | 17.65 g, 64.5% | BrC=1C(=NC=CC1)C#N | C6H3BrN2
